US03952012
A suspension of 4.5 g. (0.0136 mole) of ethyl 5-(p-chlorobenzoyl)-4-ethyl-1methylpyrrole-2-acetate in 28 ml. 0.5 N sodium hydroxide and 1 ml. of ethanol is heated under reflux for 30 min. The mixture is then poured into ice-dilute hydrochloric acid. The precipitated solid is filtered, air dried and recrystallized from 2-propanol to give 5-(p-chlorobenzoyl)-4-ethyl-1-methylpyrrole-2-acetic acid as a white solid, m.p. 129°-131°C.

reactant | ethyl 5-(p-chlorobenzoyl)-4-ethyl-1methylpyrrole-2-acetate | 0.0136 mole | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)OCC)CC)C=C1 | C18H20ClNO3
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(p-chlorobenzoyl)-4-ethyl-1-methylpyrrole-2-acetic acid | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)O)CC)C=C1 | C16H16ClNO3
